data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(OC)c1", "products": "COc1cc(F)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "COc1ccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "COc1ccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccc(OC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccc(OC)cc1", "products": "COc1ccc(C(Cl)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(Cl)c(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1ccc(Cl)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1ccc(Cl)[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1ccc(Cl)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc(Cl)c2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc(Cl)c2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(OC)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(OC)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(OC)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(OC)CN3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(F)cc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1cc(F)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1cc(F)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1cc(F)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(F)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(F)cc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)COC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CF)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(C)c1=C", "products": "COc1c2c(c(C)c([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1Cl.[Pd]", "products": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1Cl"}, {"reactants": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1Cl", "products": "COc1cc2c(cc1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc2c(cc1Cl)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc2c(cc1Cl)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CC)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CC)c(C)c1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)COC)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1Cl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
